US04929741
A solution of 3.4 ml (40 mmol) of methyl propiolate in 30 ml of tetrahydrofuran was treated at -78° under argon with 25 ml of n-butyllithium (1.6M in hexane). The mixture was stirred at -78° for 10 minutes and then a solution of 7.85 g (40 mmol) of 2,3,4-trimethoxybenzaldehyde in 40 ml of tetrahydrofuran was added within 10 minutes. The reaction mixture was brought to room temperature, stirred for 15 minutes and treated with 60 ml of saturated ammonium chloride solution. The aqueous phase was extracted twice with ether. The combined organic phases were washed in succession with saturated sodium chloride solution and with water, dried over sodium sulphate and concentrated. The residue was purified by flash chromatography on 500 g of silica gel (elution agent methylene chloride/ethyl acetate 9:1). There was obtained methyl 4-hydroxy-4-(2,3,4 -trimethoxyphenyl)-2-butynoate as a red oil.

reactant | methyl propiolate | 40 mmol, 3.4 ml | C(C#C)(=O)OC | C4H4O2
reactant | n-butyllithium | 1.6M, 25 ml | C(CCC)[Li]
reactant | 2,3,4-trimethoxybenzaldehyde | 40 mmol, 7.85 g | COC1=C(C=O)C=CC(=C1OC)OC | C10H12O4
reactant | ammonium chloride | 60 ml | [Cl-].[NH4+]
solvent | tetrahydrofuran | 30 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 40 ml | O1CCCC1 | C4H8O
product | methyl 4-hydroxy-4-(2,3,4 -trimethoxyphenyl)-2-butynoate | OC(C#CC(=O)OC)C1=C(C(=C(C=C1)OC)OC)OC | C14H16O6
